US07737141B2
Synthesis of (Z)-(S)-4-[(S)-1-(2,6-difluoropyridin-3-yl)ethyl]-2-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]methylidene}-6-methylmorpholin-3-one
Triphenylphosphonium bromide (6.52 g) was added to an acetonitrile solution of (S)-4-[(S)-1-(2,6-difluoropyridin-3-yl)ethyl]-2-hydroxy-6-methylmorpholin-3-one (4.3 g). The resulting reaction solution was heated under reflux for 1 hr, and triethylamine (5.28 mL) and 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde (3.42 g) were added thereto. The resulting reaction solution was heated under reflux for 1.5 hr and concentrated under reduced pressure. The residue was diluted with a 2 N hydrochloric acid aqueous solution and ethyl acetate. The water layer was separated, and the organic layer was washed with a 2 N hydrochloric acid aqueous solution. All the water layers were combined and alkalinized with a concentrated sodium hydroxide aqueous solution. The alkaline aqueous solution was extracted with ethyl acetate. The organic layer was separated, washed with saturated sodium hydrogencarbonate, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH, eluting solvent; heptane:ethyl acetate=1:1 to 0:1) to give 4.06 g of the title compound. The physical property values of this compound were as follows:

reactant | Triphenylphosphonium bromide | 6.52 g | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | acetonitrile | C(C)#N | C2H3N
reactant | (S)-4-[(S)-1-(2,6-difluoropyridin-3-yl)ethyl]-2-hydroxy-6-methylmorpholin-3-one | 4.3 g | FC1=NC(=CC=C1[C@H](C)N1C([C@H](OC(C1)C)O)=O)F | C12H14F2N2O3
reactant | 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde | 3.42 g | COC=1C=C(C=O)C=CC1N1C=NC(=C1)C | C12H12N2O2
solvent | triethylamine | 5.28 mL | C(C)N(CC)CC | C6H15N
product | (Z)-(S)-4-[(S)-1-(2,6-difluoropyridin-3-yl)ethyl]-2-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]methylidene}-6-methylmorpholin-3-one | 4.06 g | FC1=NC(=CC=C1[C@H](C)N1C(/C(/O[C@H](C1)C)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O)F | C24H24F2N4O3
